US07494992B2
(1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-{1-methyl-2-[(2-methylpropanoyl)oxy]ethyl}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a solution of (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-[2-hydroxy-1-methylethyl]-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 140, 100 mg, 0.17 mmol) and 4-dimethylaminopyridine (21 mg, 0.35 mmol) in dichloromethane (5 ml) at <0° C. was added isobutyric anhydride (0.06 ml, 0.35 mmol) and the resulting mixture allowed to warm to room temperature over 30 minutes. After 3 hours the reaction mixture was treated with water (5 ml) and extracted with dichloromethane (2×5 ml). The combined organic layers were washed with saturated aqueous sodium chloride solution and concentrated in vacuo. The crude product was purified by column chromatography on silica eluting with hexane:ethyl acetate (1:1 to 1:2). The pure fractions were combined and concentrated in vacuo to give the title compound (48 mg, 43%).

reactant | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-[2-hydroxy-1-methylethyl]-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.17 mmol, 100 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(CO)C)C)OC(C)=O)O | C29H39ClN2O8
reactant | isobutyric anhydride | 0.35 mmol, 0.06 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | water | 5 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.35 mmol, 21 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-{1-methyl-2-[(2-methylpropanoyl)oxy]ethyl}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 48 mg, 43% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@H](CC[C@H]([C@]32O)C)C(COC(C(C)C)=O)C)C)OC(C)=O)O | C33H45ClN2O9
